US08071587B2
(b). N-[2-(3,4-Dimethoxyphenyl)-ethyl]-2-(4-fluorophenyl)-2-formylaminoacetamide
To a mixture of N-formyl-4-fluorophenylglycine (900 mg) and 2,3-dimethoxyphenethylamine (1 ml) in DMF (5 ml) was added N-ethylmorpholine (0.75 ml) and TBTU (1.6 g). After stirring for 4 h, the reaction was quenched by addition of water (30 ml). The product was extracted with ethylacetate. The organic layer was washed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was triturated with methyl-tert.butylether and recrystallized from toluene.

reactant | N-formyl-4-fluorophenylglycine | 900 mg | C(=O)N(CC(=O)O)C1=CC=C(C=C1)F | C9H8FNO3
reactant | 2,3-dimethoxyphenethylamine | 1 ml | COC1=C(CCN)C=CC=C1OC | C10H15NO2
reactant | N-ethylmorpholine | 0.75 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TBTU | 1.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[2-(3,4-Dimethoxyphenyl)-ethyl]-2-(4-fluorophenyl)-2-formylaminoacetamide | COC=1C=C(C=CC1OC)CCNC(C(NC=O)C1=CC=C(C=C1)F)=O | C19H21FN2O4
